US07605222B2
90/10 3/4 ClPA 70/30 BP/BPA PEI (ODA) (090503, 5 L)
A mixture of 439.6623 g of the bis-chlorophthalimides prepared from 3ClPA and 4ClPA 4,4′-oxydianiline and sufficient PA to provide 4.0 mole % chain stopper, was heated to reflux in o-DCB in a 5-liter reactor equipped with a mechanical stirrer, short path distillation head, receiver, and inert gas inlet and exit. O-DCB was distilled from the mixture until the distillate contained less than 10 ppm of water by Karl-Fischer titration. A mixture of 66.0522 g (0.2426 mol) of bisphenol A disodium salt and 130.3001 g (0.5661 mole) of 4,4′-biphenol disodium salt was then added followed by additional o-DCB. o-DCB was distilled from the mixture until the distillate contained less than 10 ppm of water. The phase transfer catalyst, hexaethylguanidium chloride (23.4 mL as 20% wt solution; 2 mole %, relative to moles of salt mixture), was then added to initiate the polymerization reaction. When the target molecular weight (60,000 grams per mole) was reached, the reaction was quenched with phosphoric acid and isolated and molded into test specimens for Notched Izod testing. Molecular weight analysis by GPC on the test specimens revealed that the molecular weight (Mw) had dropped to 46,000 grams per mole as a result of the intervening processing steps. Notched Izod (NI) measurements were performed with a 2 lb hammer at room temperature. An average NI value of 2.3 ft lb/in, and a maximum NI value of 2.6 ft lb/in were observed. The standard deviation for the measurements was 0.3 ft lb/in.

reactant | bisphenol A disodium salt | 0.2426 mol, 66.0522 g | [Na].[Na].OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O
reactant | 4,4′-biphenol disodium salt | 0.5661 mole, 130.3001 g | [Na].[Na].C1(=CC=C(C=C1)C1=CC=C(C=C1)O)O
solvent | o-DCB | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
product | BPA | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
